US07605172B2
A solution of 4-(6-methoxy-2-naphthyl)-2-phenyl-1,3-thiazole (804 mg, 2.53 mmol), prepared in the previous step, in 50 mL of glacial HOAc plus 25 mL of 48% HBr was stirred under nitrogen at 120° C. for 3 h. The solvent was removed under reduced pressure and the residue partitioned between 10% methanol-methylene chloride and 5% NaHCO3. (Note: The solid that did not dissolve in either layer was collected by filtration and saved as the HCL salt of the desired product). The aqueous layer was separated and extracted three times with 10% methanol-methylene chloride. The combined extracts were dried (MgSO4), filtered and the solvent removed under reduced pressure to give 6-(2-phenyl-1,3-thiazol-4-yl)-2-naphthol (650 mg, 85%) as a brown solid, mp 194-197° C. Elemental Analysis for C19H13NOS Calc'd: C, 75.22; H, 4.32; N, 4.62. Found: C, 74.22; H, 4.12; N, 4.43

reactant | 4-(6-methoxy-2-naphthyl)-2-phenyl-1,3-thiazole | 2.53 mmol, 804 mg | COC=1C=C2C=CC(=CC2=CC1)C=1N=C(SC1)C1=CC=CC=C1 | C20H15NOS
reactant | HBr | 25 mL | Br | BrH
solvent | HOAc | 50 mL | CC(=O)O | C2H4O2
product | 6-(2-phenyl-1,3-thiazol-4-yl)-2-naphthol | 650 mg, 85% | C1(=CC=CC=C1)C=1SC=C(N1)C=1C=C2C=CC(=CC2=CC1)O | C19H13NOS
